US08217064B2
To a suspension of NaH (37 mg, 50% suspension, 0.79 mmol) in 25 ml of DMF was slowly added a mixture of ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate (300 mg, 0.719 mmol) and cyclopropylmethyl bromide (108 mg, 0.782 mmol) in 20 ml of DMF at 0° C. for 15 min under nitrogen atmosphere. Upon completion of the addition, the mixture was stirred for 15 min at 0° C. The reaction mixture was poured onto crushed ice and extracted with EtOAc (×2). The combined organic layers were washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by Flash column Chromatography to give ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-3-cyclopropylpropanoate in 62% yield. (0.210 g). 1H NMR (CDCl3): 7.69 (s, 4H); 7.41 (s, 1H); 7.21 (s, 1H); 4.19 (q, 2H); 3.63 (t, 1H); 3.41 (d, 2H); 1.94 (m, 1H); 1.78 (m, 1H); 1.27 (t, 3H); 0.97 (bs, 1H); 0.72 (bs, 1H); 0.42 (m, 4H); 0.13 (m, 2H); 0.1 (m, 2H).

reactant | NaH | 0.79 mmol, 37 mg | [H-].[Na+]
reactant | ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate | 0.719 mmol, 300 mg | ClC=1C=C(C=C(C1OCC1CC1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)OCC | C21H20ClF3O3
reactant | cyclopropylmethyl bromide | 0.782 mmol, 108 mg | C1(CC1)CBr | C4H7Br
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(5-chloro-6-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-3-cyclopropylpropanoate | 62% yield | ClC=1C=C(C=C(C1OCC1CC1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CC1CC1 | C25H26ClF3O3
